US06569851B1
Preparation of 5-{N′-(Tetrahydro-3-furoyl)-L-alaninyl}-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one
Following General Procedure C-P above using tetrahydro-3-furoic acid and 5-(L-alaninyl)-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one, as described in Example 7-B, the title compound was prepared. The molecular weight as determined by mass spectrometry (FD) was: 408 (M+H).

reactant | tetrahydro-3-furoic acid | O1CC(CC1)C(=O)O | C5H8O3
reactant | 5-(L-alaninyl)-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one | N[C@@H](C)C(=O)N1C2=C(C3=C(C(C1=O)C)C=CC=C3)C(=CC=C2)N | C18H19N3O2
product | 5-{N′-(Tetrahydro-3-furoyl)-L-alaninyl}-amino-7-methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one | O1CC(CC1)C(=O)N[C@@H](C)C(=O)N1C2=C(C3=C(C(C1=O)C)C=CC=C3)C(=CC=C2)N | C23H25N3O4
